US09259470B2
A mixture of 4-oxo-3,4-dihydro-2H-pyran-2-carboxylic acid ethyl ester (8.0 g, 46 mmol) and Pd/C (10%, 0.20 g) in ethyl acetate (70 mL) was stirred under hydrogen (1 atm) for 4 hours. The mixture was filtered through a pad of Celite®. The filtrate was concentrated, and the residue was purified by silica gel column using 30% EtOAc in petroleum ether to give 4-oxo-tetrahydro-pyran-2-carboxylic acid ethyl ester (2.62 g, 33% yield) as an oil. 1H NMR (500 MHz, CDCl3) δ 4.40 (m, 1H), 4.23-4.31 (m, 3H), 3.79 (m, 1H), 2.61-2.74 (m, 3H), 2.40 (d, J=15.0 Hz, 1H), 1.31 (t, J=7.5 Hz, 3H).

reactant | 4-oxo-3,4-dihydro-2H-pyran-2-carboxylic acid ethyl ester | 46 mmol, 8.0 g | C(C)OC(=O)C1OC=CC(C1)=O | C8H10O4
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.20 g | [Pd] | Pd
product | 4-oxo-tetrahydro-pyran-2-carboxylic acid ethyl ester | 2.62 g, 33% yield | C(C)OC(=O)C1OCCC(C1)=O | C8H12O4
